US07291631B2
MeMgBr (3.0 M in Et2O, 4.63 ml, 13.9 mmol) was added dropwise via syringe to a solution of 1-(2-methyl-pyridin-3-yl)-ethanone (1.88 g, 13.9 mmol) (Sanders et al. J. Org. Chem. 1978, 43, 324) in Et2O (60 mL) to give a white slurry. The mixture was refluxed for 16 h, cooled to room temperature, quenched with water (50 mL) and extracted with CH2Cl2 (7×60 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo to afford a yellow oil. Purification via column chromatography on silica gel (CH2Cl2:MeOH, 95:5, v/v) afforded 2-(2-methyl-pyridin-3-yl)-propan-2-ol as a white crystalline solid (1.30 g, 62%).

reactant | MeMgBr | 13.9 mmol, 3.0 M, 4.63 ml | C[Mg+].[Br-]
reactant | 1-(2-methyl-pyridin-3-yl)-ethanone | 13.9 mmol, 1.88 g | CC1=NC=CC=C1C(C)=O | C8H9NO
solvent | Et2O | 60 mL | CCOCC | C4H10O
product | 2-(2-methyl-pyridin-3-yl)-propan-2-ol | 1.30 g, 62% | CC1=NC=CC=C1C(C)(C)O | C9H13NO
